Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([CH3:2])=[O:3].[CH3:4][N:5]([C:6](=[O:7])[c:8]1[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21]1)[C@@H:22]1[CH2:23][CH2:24][N:25]([C:26](=[O:27])[CH2:28][NH:29][CH:30]2[CH2:31][CH2:32][NH:33][CH2:34][CH2:35]2)[CH2:36][C@H:37]1[c:38]1[cH:39][cH:40][c:41]([Cl:42])[c:43]([Cl:44])[cH:45]1>>[C:1]([CH3:2])(=[O:3])[N:33]1[CH2:32][CH2:31][CH:30]([NH:29][CH2:28][C:26]([N:25]2[CH2:24][CH2:23][C@@H:22]([N:5]([CH3:4])[C:6](=[O:7])[c:8]3[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21]3)[C@H:37]([c:38]3[cH:39][cH:40][c:41]([Cl:42])[c:43]([Cl:44])[cH:45]3)[CH2:36]2)=[O:27])[CH2:35][CH2:34]1,[CH3:4][N:5]([C:6](=[O:7])[c:8]1[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21]1)[C@@H:22]1[CH2:23][CH2:24][N:25]([C:26](=[O:27])[CH2:28][NH:29][CH:30]2[CH2:31][CH2:32][NH:33][CH2:34][CH2:35]2)[CH2:36][C@H:37]1[c:38]1[cH:39][cH:40][c:41]([Cl:42])[c:43]([Cl:44])[cH:45]1.[OH:101][C:1]([CH3:2])=[O:3].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH3:2])(=[O:3])[N:33]1[CH2:32][CH2:31][CH:30]([NH:29][CH2:28][C:26]([N:25]2[CH2:24][CH2:23][C@@H:22]([N:5]([CH3:4])[C:6](=[O:7])[c:8]3[cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21]3)[C@H:37]([c:38]3[cH:39][cH:40][c:41]([Cl:42])[c:43]([Cl:44])[cH:45]3)[CH2:36]2)=[O:27])[CH2:35][CH2:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 3], 3), (303, 33.1), ([33.1, 33], 33), (3, [3, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([O:3][CH3:4])=[O:5].[OH:6][c:7]1[cH:8][cH:9][c:10]([CH2:11][c:12]2[n:13][cH:14][c:15]([C:16]([F:17])([F:18])[F:19])[cH:20][c:21]2[Cl:22])[c:23]([Cl:24])[c:25]1[Cl:26]>>[CH2:1]([C:2]([O:3][CH3:4])=[O:5])[O:6][c:7]1[cH:8][cH:9][c:10]([CH2:11][c:12]2[n:13][cH:14][c:15]([C:16]([F:17])([F:18])[F:19])[cH:20][c:21]2[Cl:22])[c:23]([Cl:24])[c:25]1[Cl:26],[OH:6][c:7]1[cH:8][cH:9][c:10]([CH2:11][c:12]2[n:13][cH:14][c:15]([C:16]([F:17])([F:18])[F:19])[cH:20][c:21]2[Cl:22])[c:23]([Cl:24])[c:25]1[Cl:26].[Br:101][CH2:1][C:2]([O:3][CH3:4])=[O:5].[H-:301].[Na+]>>[CH2:1]([C:2]([O:3][CH3:4])=[O:5])[O:6][c:7]1[cH:8][cH:9][c:10]([CH2:11][c:12]2[n:13][cH:14][c:15]([C:16]([F:17])([F:18])[F:19])[cH:20][c:21]2[Cl:22])[c:23]([Cl:24])[c:25]1[Cl:26],SN2_alcohol(thiol),"[(301, 6.1), ([6.1, 6], 6), (6, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][N:4]([c:5]2[cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][c:12](-[c:13]3[cH:14][cH:15][n:16][c:17]([NH:18][CH:19]4[CH2:24][CH2:23][CH2:22][CH2:21][CH2:20]4)[cH:25]3)[n:26]2)[CH2:27][CH2:28]1>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][c:12](-[c:13]3[cH:14][cH:15][n:16][c:17]([NH:18][CH:19]4[CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]4)[cH:25]3)[n:26]2)[CH2:27][CH2:28]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][N:4]([c:5]2[cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][c:12](-[c:13]3[cH:14][cH:15][n:16][c:17]([NH:18][CH:19]4[CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]4)[cH:25]3)[n:26]2)[CH2:27][CH2:28]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][c:12](-[c:13]3[cH:14][cH:15][n:16][c:17]([NH:18][CH:19]4[CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]4)[cH:25]3)[n:26]2)[CH2:27][CH2:28]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
